US08017602B2
Step iii) 3-(3-(1-Allyl-1H-1,2,3-triazol-4-yl)phenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide
The subtitled compound (584 mg) was prepared from tert-butyl 3-(3-(1-allyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoate [Ex 4, Step iii)] and N-(2,2-dimethoxyethyl)cyclohexanamine using a similar method to that described in Example 12, Step iii) the elution gradient 20 to 100% ethyl acetate in isohexane. 1H NMR (400 MHz, CD3OD) δ 8.29 (s, 1H), 7.69 and 7.67 (2 s, 1H), 7.64 (d, J=7.9 Hz, 1H), 7.322 and 7.318 (2×t, J=7.7 Hz, 1H), 7.20 (d, J=6.9 Hz, 1H), 6.17-6.06 (m, 1H), 5.36-5.27 (m, 2H), 5.06 (d, J=5.9 Hz, 2H), 4.52 and 4.36 (2×t, J=5.5 Hz, 1H), 3.99 and 3.65 (tt, J=5.3 and 11.7 Hz, 1H), 3.76-3.66 (m, 4H), 3.34 (s, 3H), 3.32 (s, 3H), 3.34 and 3.25 (2×d, J=4.9 Hz, 2H), 2.92-2.85 (m, 2H), 2.68-2.61 (m, 2H), 1.79-1.02 (m, 10H); a ˜1:1 mixture of rotamers is observed.

reactant | tert-butyl 3-(3-(1-allyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoate | C(C=C)N1N=NC(=C1)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C20H27N3O3
reactant | N-(2,2-dimethoxyethyl)cyclohexanamine | COC(CNC1CCCCC1)OC | C10H21NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isohexane | CCCC(C)C | C6H14
product | 3-(3-(1-Allyl-1H-1,2,3-triazol-4-yl)phenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide | 584 mg | C(C=C)N1N=NC(=C1)C=1C=C(CCOCCC(=O)N(CC(OC)OC)C2CCCCC2)C=CC1 | C26H38N4O4
